US08557872B2
Step 2: Synthesis of N-methoxy-N-methyl-2-ethoxy-4-trifluoromethyl-benzamide
2-Ethoxy-4-trifluoromethyl-benzoic acid (1.20 g, 5.12 mmol) was reacted with N,O-dimethylhydroxy amine (609 mg), NMM (0.95 ml) and DMTMM (1.47 mg) as described above to give the title compound (1.04 g, 73%) after column chromatography (Hex/EtOAc=5/1).

reactant | 2-Ethoxy-4-trifluoromethyl-benzoic acid | 5.12 mmol, 1.20 g | C(C)OC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C10H9F3O3
reactant | N,O-dimethylhydroxy amine | 609 mg | CNOC | C2H7NO
reactant | NMM | 0.95 ml | CN1CCOCC1 | C5H11NO
catalyst | DMTMM | 1.47 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-methoxy-N-methyl-2-ethoxy-4-trifluoromethyl-benzamide | 1.04 g, 73% | CON(C(C1=C(C=C(C=C1)C(F)(F)F)OCC)=O)C | C12H14F3NO3
